US07317127B2
To a suspension of (S)-(+)-mandelic acid (10.72 g; 0.070 mol) in water (10 ml) 9.86 g (0.0739 mol) of 30% aqueous sodium hydroxide were added and the mixture was heated to 50-60° C. until complete dissolution. The resulting clear aqueous solution was dropped over a solution of crude racemic tomoxetine acetate in toluene, obtained by addition of glacial acetic acid (7.40 g; 0.123 mol) to a solution in toluene of crude racemic tomoxetine (30 g, 0.117 mol, by HPLC assay), prepared on its turn as described in Example 1. During the addition, temperature was raised to 35° C.; the biphasic system was then heated under vigorous stirring to 40° C. and then it spontaneously cooled to 20° C. The resulting suspension was then stirred at 20° C. for one hour, filtered and washed twice with toluene (30 ml each). The solid was dried at 50° C. under vacuum. (R)-(−)-tomoxetine mandelate 18.24 g; enantiomeric ratio: R/S 97: 3 (by chiral HPLC). Yield: 38.1%.

reactant | (S)-(+)-mandelic acid | 0.070 mol, 10.72 g | C([C@@H](O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | water | 0.0739 mol, 10 ml, 9.86 g | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | tomoxetine acetate | CC=1C=CC=CC1O[C@H](CCNC)C=2C=CC=CC2.Cl.C(C)(=O)[O-]
reactant | acetic acid | 0.123 mol, 7.40 g | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | tomoxetine | 0.117 mol, 30 g, Yield: 38.1% | CC=1C=CC=CC1O[C@H](CCNC)C=2C=CC=CC2.Cl | InChI=1S/C17H21NO.ClH/c1-14-8-6-7-11-16(14)19-17(12-13-18-2)15-9-4-3-5-10-15;/h3-11,17-18H,12-13H2,1-2H3;1H/t17-;/m1./s1
